US04806145
During a 30 minute period 65.4 g (0.55 mole) of thionyl chloride was added to 50.0 g (0.52 mole) of difluoroacetic acid while stirring. Gas evolved during the addition was returned to the reaction mixture by condensation on a dry ice condenser. After complete addition, the mixture was stirred at room temperature for approximately two hours. Urethane, 46.4 g (0.52 mole), was added and, after complete addition, the reaction mixture was heated at 60°-70° C. for three hours. The mixture was cooled to room temperature and stirred for approximately 18 hours. The mixture was heated at about 75° C. for two hours, then cooled. The mixture was evaporated under reduced pressure to leave an oily residue. This residue crystallized upon standing. The crystallized residue was washed with petroleum ether and filtered to yield 68.4 g of ethyl difluoroacetylcarbamate (mp 55°-57° C.).

reactant | thionyl chloride | 0.55 mole, 65.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | difluoroacetic acid | 0.52 mole, 50.0 g | FC(C(=O)O)F | C2H2F2O2
reactant | Urethane | NC(=O)OCC | C3H7NO2
product | ethyl difluoroacetylcarbamate | 68.4 g | FC(C(=O)NC(OCC)=O)F | C5H7F2NO3
